US06586617B1
To a solution of 4-fluoroaniline (200.0 g (1.80 mol) in pyridine (155.0 g (1.96 mol)) and acetonitrile (155 ml), under cooling with ice and with stirring, p-toluenesulfonyl chloride (360.3 g (1.89 mol)) was added. After stirring for 20 hours at room temperature, water (1500 ml) was added to the reaction mixture to bring about separation of crystals. The crystals were filtered and washed with water to give 486.6 g (102%) of 4′-fluoro-p-toluenesulfonanilide as pale red crude crystals.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | pyridine | 1.96 mol, 155.0 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 1.89 mol, 360.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 1500 ml | O | H2O
solvent | acetonitrile | 155 ml | C(C)#N | C2H3N
product | 4′-fluoro-p-toluenesulfonanilide | 486.6 g, 102% | FC1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C13H12FNO2S
